US05059347
2-hexyl-1-octanol;
2-methyl-1-pentadecanol; 2-ethyl-1-tetradecanol;

reactant | 2-methyl-1-pentadecanol | CC(CO)CCCCCCCCCCCCC | C16H34O
reactant | 2-ethyl-1-tetradecanol | C(C)C(CO)CCCCCCCCCCCC | C16H34O
product | 2-hexyl-1-octanol | C(CCCCC)C(CO)CCCCCC | C14H30O
